US07615563B2
3-(3,4-Dihydro-2H-quinolin-1-yl)-propionic acid
A mixture of the corresponding acid (0.2 mmol), amine (0.2 mmol), triethylamine (28 μL, 0.2 mmol) and HATU (76 mg, 0.2 mmol) in pyridine (0.5 mL) was microwaved at 200° C. for 420 s. The reaction mixture was diluted with 50% DMSO/MeOH (0.5 mL), filtered and purified by HPLC (gradient of 10-99% CH3CN/water).

reactant | triethylamine | 0.2 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMSO MeOH | 0.5 mL | CS(=O)C.CO
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3,4-Dihydro-2H-quinolin-1-yl)-propionic acid | N1(CCCC2=CC=CC=C12)CCC(=O)O | C12H15NO2
